Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2]/[C:3]([H:4])=[C:6]/[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-1.7064242966499998
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:10]/[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:9]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-1.78441718846
[H:1][C:2]/[C:3](=[C:4](/[H:5])[O:6][H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[C:3](=[C:4](\[H:5])[O:6][H:7])\[C:8]([H:9])([H:10])[O:11][H:12].[H:1][C:2],6.1367123907000005
[H:11].[H:1][C:2]1=[C:9]([H:10])[C:8][O:7][C:5]([H:6])=[C:3]1[H:4]>>[H:1][C:2]1[C:3]([H:4])=[C:5]([H:6])[O:7][C:8][C:9]1([H:10])[H:11],-1.56297272028
[H:1][O:2][C:3]([H:4])[H:5].[O:6][C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-3.77161134243
[H:1][O:2][C:3][C@:4]1([H:5])[O:6][C:7]1[H:8]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:7](=[O:6])[H:8],-2.85363621776
[H:1][C:2][O:3][C:4]#[C:5][C:7]([H:8])[O:9][H:10].[H:6]>>[H:1][C:2][O:3][C:4]/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10],-3.32526927875
[H:1].[O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])/[C:9]([H:10])=[C:11](\[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])/[C:9]([H:10])=[C:11](\[H:12])[C:13]([H:14])([H:15])[H:16],-4.63026227522
[H:1][C:2]=[C:3]([H:4])[O:5]/[C:6]=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]#[C:7][C:9]([H:10])([H:11])[H:12].[H:8],2.30533906624
[H:18].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])=[C:15]([H:16])[H:17]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[C:15]([H:16])([H:17])[H:18],-1.90144891092
[H:1][C:2]/[C:3]([H:4])=[C:5](/[O:7][H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:6]>>[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[O:9][C:10]([H:11])([H:12])[H:13],-3.29052943509
[H:1][C:2][O:3][C:4]=[C:5]([H:6])[H:7]>>[H:1][C:2].[O:3]=[C:4]=[C:5]([H:6])[H:7],1.84668865013
[C:7]([O:8][C:9]([H:10])([H:11])[H:12])=[C:13]([H:14])[H:15].[H:1][C:2]([H:3])=[C:4]([H:5])[H:6]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([O:8][C:9]([H:10])([H:11])[H:12])=[C:13]([H:14])[H:15],-1.6082576759399998
[H:1][C:2]([H:3])([H:4])[O:5][C:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])([H:4])[O:5]/[C:6]=[C:7](\[H:8])[O:10][C:11]([H:12])([H:13])[H:14].[H:9],2.96356344601
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[O:10][C:11][H:12]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C@:7]1([H:8])[C:9][O:10][C:11]1[H:12],-1.02873334282
[C:3]([H:4])([C:5]([H:6])([H:7])[H:8])[H:11].[O:1]=[C:2]=[C:9]([H:10])[C:12]([H:13])([H:14])[H:15]>>[O:1]=[C:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.56331705274
[C:4]([H:5])([H:6])=[C:7]=[C:8]([H:9])[O:10][H:11].[H:1][O:2][C:3]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])/[C:7]=[C:8](\[H:9])[O:10][H:11],-0.5767092238
[O:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10][H:11]>>[C:10][H:11].[O:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])[H:9],3.6193508742
[H:1][O:2][C:3]#[C:4][C:5]([H:6])[O:7][H:8]>>[C:3](#[C:4][C:5][O:7][H:8])[H:6].[H:1][O:2],4.89261306844
[H:1][O:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:4]([H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][O:3],3.42917649545
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:9]([H:10])[H:11].[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8][C:12]([H:13])([H:14])[H:15],8.39194694832
[C:1]#[C:2][O:3][C:4]([H:5])=[C:6]([H:7])[H:8].[O:9][H:10]>>[C:1]#[C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[O:9][H:10],-3.1534092191000003
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][C:9]=[C:10]([H:11])[H:12]>>[C:3]([H:4])([H:5])=[C:6]([H:7])[O:8][C:9]=[C:10]([H:11])[H:12].[H:1][O:2],3.01980343103
[H:8].[O:1]=[C:2]([H:3])[O:4]/[C:5]=[C:6](\[H:7])[C:9]([H:10])[H:11]>>[O:1]=[C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11],-2.67588436567
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C@:7]1([H:8])[C:9][O:10][C:11]1[H:12]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[O:10][C:11][H:12],1.02873334282
[O:1][C:2](=[C:3]=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:2](#[C:3][C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:1],4.65459354359
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[O:9][H:10]>>[H:1].[O:2]=[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[O:9][H:10],1.77513223051
[H:10].[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-1.94977429061
